US04816582
2.66 g (0.01 mol) of allyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic in 100 ml of ethyl acetate are treated while stirring with 17.73 mg (0.001 mol) of palladium chloride and 0.083 ml (0.0005 mol) of triethyl phosphate. After stirring for 10 minutes, 0.9 g (0.11 mol) of sodium acetate is added thereto. The reaction occurs after the addition of 1 ml of water and crude 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic acid sodium salt precipitates out. The mixture is stirred at room temperature for a further 24 hours, subsequently extracted twice with 30 ml of water each time, the aqueous solution is extracted once with ether and subsequently adjusted to pH 2 with 2N aqueous hydrochloric acid. After evaporation to dryness, the residue is dissolved in 50 ml of methanol, filtered and cooled. There are obtained 1.1 g (45.4%) of 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic acid of melting point 140°-142° C. (decomposition).

reactant | triethyl phosphate | 0.0005 mol, 0.083 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | sodium acetate | 0.11 mol, 0.9 g | C(C)(=O)[O-].[Na+]
reactant | water | 1 ml | O | H2O
reactant | 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic acid sodium salt | [Na+].NC=1SC=C(N1)/C(/C(=O)[O-])=N/OCC#N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium chloride | 0.001 mol, 17.73 mg | [Pd](Cl)Cl
product | 2-(2-amino-4-thiazolyl)-2-[(Z)-(cyanomethoxy)imino]-acetic acid | 1.1 g, 45.4% | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC#N | C7H6N4O3S
